US04465850
By following substantially the procedure in Example 8, Step A, but substituting for (+)[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]acetic acid an equimolar quantity of (+)[(2-butyl-6,7-dichloro-2-cyclopentyl-2,3-dihydro-1-oxo-1H-inden-5-yl)oxy]acetic acid, there is obtained (+)2-butyl-6,7-dichloro-2-cyclopentyl-2,3-dihydro-5-hydroxy-1H-inden-1-one which is used in Step C without further purification.

reactant | (+)[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]acetic acid | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OCC(=O)O | C17H18Cl2O4
reactant | (+)[(2-butyl-6,7-dichloro-2-cyclopentyl-2,3-dihydro-1-oxo-1H-inden-5-yl)oxy]acetic acid | C(CCC)C1(C(C2=C(C(=C(C=C2C1)OCC(=O)O)Cl)Cl)=O)C1CCCC1 | C20H24Cl2O4
product | (+)2-butyl-6,7-dichloro-2-cyclopentyl-2,3-dihydro-5-hydroxy-1H-inden-1-one | C(CCC)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C1CCCC1 | C18H22Cl2O2
